US04167567
In the manner given in Example 15, 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine is reacted with 2,4-diethylphenylsulfonyl chloride, in the presence of triethylamine to give 1-[(2,4-diethylphenyl)sulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine.

reactant | 4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)N2CCNCC2)C=C1)(F)F | C21H19F3N4O
reactant | 2,4-diethylphenylsulfonyl chloride | C(C)C1=C(C=CC(=C1)CC)S(=O)(=O)Cl | C10H13ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[(2,4-diethylphenyl)sulfonyl]-4-[4-[[7-(trifluoromethyl)-4-quinolinyl]amino]benzoyl]piperazine | C(C)C1=C(C=CC(=C1)CC)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O | C31H31F3N4O3S
